US06455528B1
(2) 1-(6-Fluoropyridin-2-yl)piperazine
A solution of 1-acetyl-4-(6-fluoropyridin-2-yl)piperazine (5.5 g) and sodium hydroxide (3.0 g) in methanol (30 ml)—water (30 ml) was refluxed under heating for 5 hr. The reaction mixture was poured into water and extracted with ethyl acetate. The solvent was evaporated to give the title compound (4.6 g) as a pale-yellow oil.

reactant | 1-acetyl-4-(6-fluoropyridin-2-yl)piperazine | 5.5 g | C(C)(=O)N1CCN(CC1)C1=NC(=CC=C1)F | C11H14FN3O
reactant | sodium hydroxide | 3.0 g | [OH-].[Na+]
reactant | water | 30 ml | O | H2O
solvent | methanol | 30 ml | CO | CH4O
product | 1-(6-Fluoropyridin-2-yl)piperazine | 4.6 g | FC1=CC=CC(=N1)N1CCNCC1 | C9H12FN3
